US05114493
The reaction of 3-n-butyl-2-cyclohexen-1-one (3.0 g, 19.7 mmoles) in 10 ml of THF with lithium diisopropylamide (2.17 mmoles) followed by ethyl bromoacetate (3.96 g, 23.6 mmoles) in 10 ml of THF, at -78° C. under argon, was conducted in a similar manner to the synthesis of 6-(carbethoxymethyl)-3-methyl-2-cyclohexen-1-one described in Example II, and a yield of 3.92 g (83%) of 6-(carbethoxymethyl)-3-n-butyl-2-cyclohexen-1-one was obtained.

reactant | 3-n-butyl-2-cyclohexen-1-one | 19.7 mmoles, 3.0 g | C(CCC)C1=CC(CCC1)=O | C10H16O
reactant | lithium diisopropylamide | 2.17 mmoles | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl bromoacetate | 23.6 mmoles, 3.96 g | BrCC(=O)OCC | C4H7BrO2
reactant | 6-(carbethoxymethyl)-3-methyl-2-cyclohexen-1-one | C(=O)(OCC)CC1CCC(=CC1=O)C | C11H16O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-(carbethoxymethyl)-3-n-butyl-2-cyclohexen-1-one | yield of 3.92 g, 83% | C(=O)(OCC)CC1CCC(=CC1=O)CCCC | C14H22O3
